US08859569B2
8-(2-Fluorobenzyl)imidazo[1,5-a]pyrimidine-6-carboxamide
8.200 g (27.40 mmol) of ethyl-8-(2-fluorobenzyl)imidazo[1,5-a]pyrimidine-6-carboxylate was distributed in 8 microwave vessels. Each vessel was charged with 10 ml of 7N solution of ammonia in methanol and stirred for 80 min at 150° C. in the microwave. After cooling, the contents of the vessels were combined, the resultant precipitate was filtered with suction, washed with a little methanol and dried under high vacuum. 8.42 g (quant.) of the target compound was obtained.

reactant | ethyl-8-(2-fluorobenzyl)imidazo[1,5-a]pyrimidine-6-carboxylate | 27.40 mmol, 8.200 g | C(C)OC(=O)C1=NC(=C2N1C=CC=N2)CC2=C(C=CC=C2)F | C16H14FN3O2
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 8-(2-Fluorobenzyl)imidazo[1,5-a]pyrimidine-6-carboxamide | FC1=C(CC=2N=C(N3C2N=CC=C3)C(=O)N)C=CC=C1 | C14H11FN4O
